2188-03-18 06:44:00 Physician Resident Progress Note
Chief Complaint: Hypercarbic Respiratory Failure
   24 Hour Events:
   - Dr. [**First Name4 (NamePattern1) 129**] [**Last Name (NamePattern1) 13877**] at [**Hospital1 **] who has taken care of him for 2 years.
   (cell phone:[**Telephone/Fax (1) 13878**], partners pager:[**Numeric Identifier 13879**]) Baseline hct:28-29.
   Getting aranesp only to avoid transfusions but family refused it last
   week (think causes inc secretions) so said maybe this week. Will give
   to him there if they will accept it. Baseline K 4.5-5.5. Baseline WBC
   [**11-21**]. Not been diuresing. No fevers. Had black tarry stools 2-3 weeks
   ago and was put on ppi but hct never dropped and thought might be
   related to intake not bleed. Scrotum always "massive". MS baseline is:
   opens eyes occasionally, non responsive. Will grimace to painful
   stimuli and occ flex legs. No spontaneous movement. Dr. [**Last Name (STitle) 13877**] had
   talked to Dr. [**Last Name (STitle) 2249**] on Friday to ask whether a stent would help but
   because it would have necessitated a transfer to ICU here for unclear
   benefit this was deferred however now that he's here if Dr [**Last Name (STitle) 2249**] wants
   to do it that would be fine.
   - ABG 11am 7.24/84/132, 3pm 7.34/66/134
   - Bronch at 5:30, flap of granulation tissue seen in trachea, IP called
   who rebronched, plan to replace trach in am with a different type of
   trach that will stabilize this granulation tissue and maintain a patent
   airway.
 INVASIVE VENTILATION - START [**2188-3-17**] 10:19 AM
 EKG - At [**2188-3-17**] 11:45 AM
 BRONCHOSCOPY - At [**2188-3-17**] 05:54 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2188-3-17**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2188-3-17**] 10:01 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-18**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.9
   HR: 51 (39 - 80) bpm
   BP: 151/73(92) {99/48(41) - 171/77(98)} mmHg
   RR: 17 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
             Total In:
                                                                    604 mL
                                                                    130 mL
   PO:
             TF:
   IVF:
                                                                    514 mL
                                                                    130 mL
   Blood products:
   Total out:
                                                                    810 mL
                                                                    290 mL
   Urine:
                                                                    810 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -207 mL
                                                                   -160 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 430 (49 - 470) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 9
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 25 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.34/66/135/29/7
   Ve: 5.6 L/min
   PaO2 / FiO2: 338
   Physical Examination
   GEN: trached, ventilated, withdraws to painful stimuli
   HEENT: Anicteric sclera, MMM
   NECK: No JVD
   LUNGS: CTAB, no wheeze,rales, rhonchi
   HEART: RRR no m/r/g
   ABD: Soft. PEG site c/d/i. NABS. Does not grimace with palpation
   BACK: No pressure ulcers
   GU:  Enlarged scrotum with foley in place draining clear-yellow urine
   EXTREM: No cyanosis, clubbing, edema, warm
   Labs / Radiology
   346 K/uL
   7.7 g/dL
   174 mg/dL
   2.1 mg/dL
   29 mEq/L
   4.3 mEq/L
   71 mg/dL
   97 mEq/L
   136 mEq/L
   24.5 %
   6.1 K/uL
        [image002.jpg]
                             [**2188-3-17**]  11:41 AM
                             [**2188-3-17**]  03:02 PM
                             [**2188-3-18**]  02:05 AM
   WBC
   6.1
   Hct
   24.5
   Plt
   346
   Cr
   2.1
   TCO2
   38
   37
   Glucose
   174
   Other labs: Ca++:9.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo M with h/o chronic respiratory failure, tracheomalacia, anoxic
   brain injury admitted with hypoxia now resolving and hypercarbic
   respiratory failure.
   .
   # Hypercarbic Respiratory Failure: Patient with chronic respiratory
   failure at baseline with ABG on last admission 168/67/7.33. Increased
   peak inspiratory pressures and plateau pressures possible upper airway
   obstruction from either worsening tracheomalacia, trach malposition, or
   mucous plugging. Improved with suction (ABG 7.24/84/132 ->
   7.34/66/134), appears to be at respiratory baseline.  Bronch yesterday
   showed granulation tissue blocking trachea, which may intermittently
   cause episodes of respiratory distress.  IP plans to replace trach tube
   with new type which should cover this tissue.
   - IP replacement of trach tube
   - Continue nebs
   - D/C abx as no evidence of PNA
   - Suction PRN to avoid mucous plugging, being cautious not to
   manipulate tissue flap in a way that causes occlusion
   .
   # Hypotension: Currently resolved. Unclear etiology and severity as no
   record of hypotension from rehab.
   - Restart anti-hypertensives for now as slightly hypertensive at this
   point with strict holding parameters (amlodipine thrice weekly (MWF),
   prazosin 1mg PO daily)
   .
   # Hyperkalemia: Resolved
   - recheck K on arrival to floor
   - Recheck EKG
   - Monitor on telemetry
   .
   # Atrial Fibrillation: Has been in SR with rates 45-80.
   - Monitor on telemetry
   - No anticoagulation given other comorbidities, he is not on AC at home
   .
   # Chronic foley [**2-12**] inoperable hernia:  per outside records on
   continuous bladder irrigation constantly, unclear why
   - foley catheter, monitor UOP
   .
   # Chronic Kidney Injury: Baseline 2.0-2.2. Currently at baseline.
   - Renally dose meds
   - Avoid nephrotoxins
   - Monitory lytes, creatinine.
   .
   # Type Two Diabetes:
   - Continue ISS
   - hold glipizide for now while working out TF recs
   - Monitor FSBS
   .
   ICU Care
   Nutrition:
   Comments: NPO, start tube feeds pending nutrition recs, post procedure
   Glycemic Control:  ISS
   Lines:
   20 Gauge - [**2188-3-17**] 11:01 AM
   Prophylaxis:
   DVT: Heparin sq
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU
 Would like to get him back to [**Hospital1 **] as soon as
   trach tube is replaced,

2188-03-19 08:43:00 Physician Resident Progress Note
Chief Complaint: CC: Hypercarbic Respiratory Failure
   24 Hour Events:
   -replaced trach
   -d/c to rehab/home
   -the family would like us to do a trial of home vent here in the ICU
   (?)  left information of home vent company in patient's room on cork
   board and would like us to call in the AM.
 BRONCHOSCOPY - At [**2188-3-18**] 03:51 PM
   Used for trach change
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2188-3-18**] 10:13 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2188-3-19**] 08:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**90**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.5
   HR: 69 (44 - 71) bpm
   BP: 136/51(72) {115/37(55) - 161/63(86)} mmHg
   RR: 16 (12 - 24) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    549 mL
                                                                    387 mL
   PO:
             TF:
                                                                    170 mL
                                                                    304 mL
   IVF:
                                                                    319 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    460 mL
   Urine:
                                                                  1,110 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -561 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 300 (300 - 300) mL
   Vt (Spontaneous): 375 (316 - 484) mL
   PS : 18 cmH2O
   RR (Set): 16
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 28 cmH2O
   SpO2: 91%
   ABG: ///28/
   Ve: 6.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   358 K/uL
   7.7 g/dL
   200 mg/dL
   2.0 mg/dL
   28 mEq/L
   3.9 mEq/L
   74 mg/dL
   100 mEq/L
   139 mEq/L
   24.8 %
   8.8 K/uL
        [image002.jpg]
                             [**2188-3-17**]  11:41 AM
                             [**2188-3-17**]  03:02 PM
                             [**2188-3-18**]  02:05 AM
                             [**2188-3-19**]  04:04 AM
   WBC
   6.1
   8.8
   Hct
   24.5
   24.8
   Plt
   346
   358
   Cr
   2.1
   2.0
   TCO2
   38
   37
   Glucose
   174
   200
   Other labs: PT / PTT / INR:12.6/28.6/1.1, Ca++:8.6 mg/dL, Mg++:2.3
   mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   [**Age over 90 **]yo M with h/o chronic respiratory failure, tracheomalacia, anoxic
   brain injury admitted with hypoxia now resolving and hypercarbic
   respiratory failure.
   # Hypercarbic Respiratory Failure: Patient with chronic respiratory
   failure at baseline with ABG on last admission 168/67/7.33. Increased
   peak inspiratory pressures and plateau pressures possible upper airway
   obstruction from either worsening tracheomalacia, trach malposition, or
   mucous plugging. Improved with suction (ABG 7.24/84/132 ->
   7.34/66/134), appears to be at respiratory baseline.  Bronch yesterday
   showed granulation tissue blocking trachea, which may intermittently
   cause episodes of respiratory distress.  IP plans to replace trach tube
   with new type which should cover this tissue.
   - IP replacement of trach tube
   - Continue nebs
   - D/C abx as no evidence of PNA
   - Suction PRN to avoid mucous plugging, being cautious not to
   manipulate tissue flap in a way that causes occlusion
   # Hypotension: Currently resolved. Unclear etiology and severity as no
   record of hypotension from rehab.
   - Restart anti-hypertensives for now as slightly hypertensive at this
   point with strict holding parameters (amlodipine thrice weekly (MWF),
   prazosin 1mg PO daily)
   # Hyperkalemia: Resolved
   - recheck K on arrival to floor
   - Recheck EKG
   - Monitor on telemetry
   .
   # Atrial Fibrillation: Has been in SR with rates 45-80.
   - Monitor on telemetry
   - No anticoagulation given other comorbidities, he is not on AC at home
   .
   # Chronic foley [**2-12**] inoperable hernia:  per outside records on
   continuous bladder irrigation constantly, unclear why
   - foley catheter, monitor UOP
   .
   # Chronic Kidney Injury: Baseline 2.0-2.2. Currently at baseline.
   - Renally dose meds
   - Avoid nephrotoxins
   - Monitory lytes, creatinine.
   .
   # Type Two Diabetes:
   - Continue ISS
   - hold glipizide for now while working out TF recs
   - Monitor FSBS
 HYPOTENSION (NOT SHOCK)
 HYPOXEMIA
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2188-3-19**] 01:59 AM 35 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2188-3-17**] 11:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: